M1 cont2 gate0 cont1 gnd N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M2 cont3 gate1 cont2 gnd N w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M3 cont4 gate2 cont3 gnd N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
M4 cont5 gate3 cont1 gnd N w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
M5 cont8 gate4 cont7 vdd P w=1u l=0.25u As=0.275p Ad=0.2p Ps=2.55u Pd=1.4u  geo=1
M6 cont9 gate5 cont8 vdd P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M7 cont10 gate6 cont9 vdd P w=1u l=0.25u As=0.2p Ad=0.2p Ps=1.4u Pd=1.4u  geo=3
M8 cont11 gate7 cont10 vdd P w=1u l=0.25u As=0.2p Ad=0.275p Ps=1.4u Pd=2.55u  geo=2
R1   aux1   aux2   0.18332979
R2   aux1   gate0  0.16109255
R3   aux1   aux3   0.01030144
R4   aux4   aux5   0.010065344
R5   aux4   in     0.32959864
R6   aux4   gate7  0.1630236
R7   aux2   gate1  0.16453441
R8   aux2   gate5  0.16102014
R9   aux2   aux6   0.16856708
R10  aux5   gate3  0.16490901
R11  aux5   aux3   0.17972504
R12  aux6   gate4  0.18044906
R13  aux6   gate2  0.18443775
R14  aux3   gate6  0.16016076
R15  aux7   out    0.1978879
R16  aux7   aux8   0.55478024
R17  aux7   aux9   0.33974991
R18  aux9   cont3  0.70953087
R19  aux9   cont8  0.70870838
R20  aux8   cont10 0.71760426
R21  aux8   cont1  0.69687024
R22  aux10  cont2  0.58667598
R23  aux10  aux11  0.72702631
R24  aux10  cont4  1.3625895
R25  aux11  gnd    0.17689375
R26  aux11  cont5  0.66039107
R27  aux12  cont9  0.5794803
R28  aux12  cont7  1.3466259
R29  aux12  aux13  0.72464916
R30  aux13  vdd    0.17633846
R31  aux13  cont11 0.6364873
C1   cont1  cont2  2.8943339e-18
C2   cont1  gate0  2.6767967e-18
C3   cont1  gnd    2.8943339e-18
C4   cont1  in     2.6767967e-18
C5   cont1  gate1  2.6767967e-18
C6   cont1  cont4  2.8943339e-18
C7   cont1  gate2  2.6767967e-18
C8   cont1  cont5  2.8943339e-18
C9   cont1  gate3  2.6767967e-18
C10  cont1  cont7  2.9291291e-18
C11  cont1  gate4  2.6767967e-18
C12  cont1  vdd    2.9291291e-18
C13  cont1  cont9  2.9291291e-18
C14  cont1  gate5  2.6767967e-18
C15  cont1  gate6  2.6767967e-18
C16  cont1  cont11 2.9291291e-18
C17  cont1  gate7  2.6767967e-18
C18  cont1  aux1   8.0303901e-18
C19  cont1  aux2   1.0707187e-17
C20  cont1  aux3   8.0303901e-18
C21  cont1  aux4   8.0303901e-18
C22  cont1  aux5   8.0303901e-18
C23  cont1  aux6   8.0303901e-18
C24  cont1  aux10  8.6830017e-18
C25  cont1  aux11  8.6830017e-18
C26  cont1  aux12  8.7873873e-18
C27  cont1  aux13  8.7873873e-18
C28  cont2  gate0  2.3683556e-18
C29  out    cont2  2.8943339e-18
C30  cont2  in     2.3683556e-18
C31  cont3  cont2  2.8943339e-18
C32  cont2  gate1  2.3683556e-18
C33  cont2  gate2  2.3683556e-18
C34  cont2  gate3  2.3683556e-18
C35  cont2  cont7  6.2565182e-19
C36  cont8  cont2  2.8943339e-18
C37  cont2  gate4  2.3683556e-18
C38  cont2  vdd    6.2565182e-19
C39  cont2  cont9  6.2565182e-19
C40  cont2  gate5  2.3683556e-18
C41  cont10 cont2  2.8943339e-18
C42  cont2  gate6  2.3683556e-18
C43  cont2  cont11 6.2565182e-19
C44  cont2  gate7  2.3683556e-18
C45  cont2  aux1   7.1050667e-18
C46  cont2  aux2   9.4734223e-18
C47  cont2  aux3   7.1050667e-18
C48  cont2  aux4   7.1050667e-18
C49  cont2  aux5   7.1050667e-18
C50  cont2  aux6   7.1050667e-18
C51  aux7   cont2  8.6830017e-18
C52  aux8   cont2  8.6830017e-18
C53  aux9   cont2  8.6830017e-18
C54  cont2  aux12  1.8769555e-18
C55  cont2  aux13  1.8769555e-18
C56  out    gate0  2.6767967e-18
C57  gnd    gate0  2.3683556e-18
C58  cont3  gate0  2.6767967e-18
C59  cont4  gate0  2.3683556e-18
C60  cont5  gate0  2.3683556e-18
C61  gate0  cont7  2.3527697e-18
C62  cont8  gate0  2.6767967e-18
C63  gate0  vdd    2.3527697e-18
C64  gate0  cont9  2.3527697e-18
C65  cont10 gate0  2.6767967e-18
C66  gate0  cont11 2.3527697e-18
C67  aux7   gate0  8.0303901e-18
C68  aux8   gate0  8.0303901e-18
C69  aux9   gate0  8.0303901e-18
C70  aux10  gate0  7.1050667e-18
C71  aux11  gate0  7.1050667e-18
C72  gate0  aux12  7.0583092e-18
C73  gate0  aux13  7.0583092e-18
C74  out    gnd    2.8943339e-18
C75  out    in     2.6767967e-18
C76  out    gate1  2.6767967e-18
C77  out    cont4  2.8943339e-18
C78  out    gate2  2.6767967e-18
C79  out    cont5  2.8943339e-18
C80  out    gate3  2.6767967e-18
C81  out    cont7  2.9291291e-18
C82  out    gate4  2.6767967e-18
C83  out    vdd    2.9291291e-18
C84  out    cont9  2.9291291e-18
C85  out    gate5  2.6767967e-18
C86  out    gate6  2.6767967e-18
C87  out    cont11 2.9291291e-18
C88  out    gate7  2.6767967e-18
C89  out    aux1   8.0303901e-18
C90  out    aux2   1.0707187e-17
C91  out    aux3   8.0303901e-18
C92  out    aux4   8.0303901e-18
C93  out    aux5   8.0303901e-18
C94  out    aux6   8.0303901e-18
C95  out    aux10  8.6830017e-18
C96  out    aux11  8.6830017e-18
C97  out    aux12  8.7873873e-18
C98  out    aux13  8.7873873e-18
C99  gnd    in     2.3683556e-18
C100 cont3  gnd    2.8943339e-18
C101 gnd    gate1  2.3683556e-18
C102 gnd    gate2  2.3683556e-18
C103 gnd    gate3  2.3683556e-18
C104 gnd    cont7  6.2565182e-19
C105 cont8  gnd    2.8943339e-18
C106 gnd    gate4  2.3683556e-18
C107 gnd    vdd    6.2565182e-19
C108 gnd    cont9  6.2565182e-19
C109 gnd    gate5  2.3683556e-18
C110 cont10 gnd    2.8943339e-18
C111 gnd    gate6  2.3683556e-18
C112 gnd    cont11 6.2565182e-19
C113 gnd    gate7  2.3683556e-18
C114 gnd    aux1   7.1050667e-18
C115 gnd    aux2   9.4734223e-18
C116 gnd    aux3   7.1050667e-18
C117 gnd    aux4   7.1050667e-18
C118 gnd    aux5   7.1050667e-18
C119 gnd    aux6   7.1050667e-18
C120 aux7   gnd    8.6830017e-18
C121 aux8   gnd    8.6830017e-18
C122 aux9   gnd    8.6830017e-18
C123 gnd    aux12  1.8769555e-18
C124 gnd    aux13  1.8769555e-18
C125 cont3  in     2.6767967e-18
C126 cont4  in     2.3683556e-18
C127 cont5  in     2.3683556e-18
C128 in     cont7  2.3527697e-18
C129 cont8  in     2.6767967e-18
C130 in     vdd    2.3527697e-18
C131 in     cont9  2.3527697e-18
C132 cont10 in     2.6767967e-18
C133 in     cont11 2.3527697e-18
C134 aux7   in     8.0303901e-18
C135 aux8   in     8.0303901e-18
C136 aux9   in     8.0303901e-18
C137 aux10  in     7.1050667e-18
C138 aux11  in     7.1050667e-18
C139 in     aux12  7.0583092e-18
C140 in     aux13  7.0583092e-18
C141 cont3  gate1  2.6767967e-18
C142 cont3  cont4  2.8943339e-18
C143 cont3  gate2  2.6767967e-18
C144 cont3  cont5  2.8943339e-18
C145 cont3  gate3  2.6767967e-18
C146 cont3  cont7  2.9291291e-18
C147 cont3  gate4  2.6767967e-18
C148 cont3  vdd    2.9291291e-18
C149 cont3  cont9  2.9291291e-18
C150 cont3  gate5  2.6767967e-18
C151 cont3  gate6  2.6767967e-18
C152 cont3  cont11 2.9291291e-18
C153 cont3  gate7  2.6767967e-18
C154 cont3  aux1   8.0303901e-18
C155 cont3  aux2   1.0707187e-17
C156 cont3  aux3   8.0303901e-18
C157 cont3  aux4   8.0303901e-18
C158 cont3  aux5   8.0303901e-18
C159 cont3  aux6   8.0303901e-18
C160 cont3  aux10  8.6830017e-18
C161 cont3  aux11  8.6830017e-18
C162 cont3  aux12  8.7873873e-18
C163 cont3  aux13  8.7873873e-18
C164 cont4  gate1  2.3683556e-18
C165 cont5  gate1  2.3683556e-18
C166 gate1  cont7  2.3527697e-18
C167 cont8  gate1  2.6767967e-18
C168 gate1  vdd    2.3527697e-18
C169 gate1  cont9  2.3527697e-18
C170 cont10 gate1  2.6767967e-18
C171 gate1  cont11 2.3527697e-18
C172 aux7   gate1  8.0303901e-18
C173 aux8   gate1  8.0303901e-18
C174 aux9   gate1  8.0303901e-18
C175 aux10  gate1  7.1050667e-18
C176 aux11  gate1  7.1050667e-18
C177 gate1  aux12  7.0583092e-18
C178 gate1  aux13  7.0583092e-18
C179 cont4  gate2  2.3683556e-18
C180 cont4  gate3  2.3683556e-18
C181 cont4  cont7  6.2565182e-19
C182 cont8  cont4  2.8943339e-18
C183 cont4  gate4  2.3683556e-18
C184 cont4  vdd    6.2565182e-19
C185 cont4  cont9  6.2565182e-19
C186 cont4  gate5  2.3683556e-18
C187 cont10 cont4  2.8943339e-18
C188 cont4  gate6  2.3683556e-18
C189 cont4  cont11 6.2565182e-19
C190 cont4  gate7  2.3683556e-18
C191 cont4  aux1   7.1050667e-18
C192 cont4  aux2   9.4734223e-18
C193 cont4  aux3   7.1050667e-18
C194 cont4  aux4   7.1050667e-18
C195 cont4  aux5   7.1050667e-18
C196 cont4  aux6   7.1050667e-18
C197 aux7   cont4  8.6830017e-18
C198 aux8   cont4  8.6830017e-18
C199 aux9   cont4  8.6830017e-18
C200 cont4  aux12  1.8769555e-18
C201 cont4  aux13  1.8769555e-18
C202 cont5  gate2  2.3683556e-18
C203 gate2  cont7  2.3527697e-18
C204 cont8  gate2  2.6767967e-18
C205 gate2  vdd    2.3527697e-18
C206 gate2  cont9  2.3527697e-18
C207 cont10 gate2  2.6767967e-18
C208 gate2  cont11 2.3527697e-18
C209 aux7   gate2  8.0303901e-18
C210 aux8   gate2  8.0303901e-18
C211 aux9   gate2  8.0303901e-18
C212 aux10  gate2  7.1050667e-18
C213 aux11  gate2  7.1050667e-18
C214 gate2  aux12  7.0583092e-18
C215 gate2  aux13  7.0583092e-18
C216 cont5  gate3  2.3683556e-18
C217 cont5  cont7  6.2565182e-19
C218 cont8  cont5  2.8943339e-18
C219 cont5  gate4  2.3683556e-18
C220 cont5  vdd    6.2565182e-19
C221 cont5  cont9  6.2565182e-19
C222 cont5  gate5  2.3683556e-18
C223 cont10 cont5  2.8943339e-18
C224 cont5  gate6  2.3683556e-18
C225 cont5  cont11 6.2565182e-19
C226 cont5  gate7  2.3683556e-18
C227 cont5  aux1   7.1050667e-18
C228 cont5  aux2   9.4734223e-18
C229 cont5  aux3   7.1050667e-18
C230 cont5  aux4   7.1050667e-18
C231 cont5  aux5   7.1050667e-18
C232 cont5  aux6   7.1050667e-18
C233 aux7   cont5  8.6830017e-18
C234 aux8   cont5  8.6830017e-18
C235 aux9   cont5  8.6830017e-18
C236 cont5  aux12  1.8769555e-18
C237 cont5  aux13  1.8769555e-18
C238 gate3  cont7  2.3527697e-18
C239 cont8  gate3  2.6767967e-18
C240 gate3  vdd    2.3527697e-18
C241 gate3  cont9  2.3527697e-18
C242 cont10 gate3  2.6767967e-18
C243 gate3  cont11 2.3527697e-18
C244 aux7   gate3  8.0303901e-18
C245 aux8   gate3  8.0303901e-18
C246 aux9   gate3  8.0303901e-18
C247 aux10  gate3  7.1050667e-18
C248 aux11  gate3  7.1050667e-18
C249 gate3  aux12  7.0583092e-18
C250 gate3  aux13  7.0583092e-18
C251 cont8  cont7  2.9291291e-18
C252 gate4  cont7  2.3527697e-18
C253 gate5  cont7  2.3527697e-18
C254 cont10 cont7  2.9291291e-18
C255 gate6  cont7  2.3527697e-18
C256 gate7  cont7  2.3527697e-18
C257 aux1   cont7  7.0583092e-18
C258 aux2   cont7  9.4110789e-18
C259 aux3   cont7  7.0583092e-18
C260 aux4   cont7  7.0583092e-18
C261 aux5   cont7  7.0583092e-18
C262 aux6   cont7  7.0583092e-18
C263 aux7   cont7  8.7873873e-18
C264 aux8   cont7  8.7873873e-18
C265 aux9   cont7  8.7873873e-18
C266 aux10  cont7  1.8769555e-18
C267 aux11  cont7  1.8769555e-18
C268 cont8  gate4  2.6767967e-18
C269 cont8  vdd    2.9291291e-18
C270 cont8  cont9  2.9291291e-18
C271 cont8  gate5  2.6767967e-18
C272 cont8  gate6  2.6767967e-18
C273 cont8  cont11 2.9291291e-18
C274 cont8  gate7  2.6767967e-18
C275 cont8  aux1   8.0303901e-18
C276 cont8  aux2   1.0707187e-17
C277 cont8  aux3   8.0303901e-18
C278 cont8  aux4   8.0303901e-18
C279 cont8  aux5   8.0303901e-18
C280 cont8  aux6   8.0303901e-18
C281 cont8  aux10  8.6830017e-18
C282 cont8  aux11  8.6830017e-18
C283 cont8  aux12  8.7873873e-18
C284 cont8  aux13  8.7873873e-18
C285 gate4  vdd    2.3527697e-18
C286 gate4  cont9  2.3527697e-18
C287 cont10 gate4  2.6767967e-18
C288 gate4  cont11 2.3527697e-18
C289 aux7   gate4  8.0303901e-18
C290 aux8   gate4  8.0303901e-18
C291 aux9   gate4  8.0303901e-18
C292 aux10  gate4  7.1050667e-18
C293 aux11  gate4  7.1050667e-18
C294 gate4  aux12  7.0583092e-18
C295 gate4  aux13  7.0583092e-18
C296 gate5  vdd    2.3527697e-18
C297 cont10 vdd    2.9291291e-18
C298 gate6  vdd    2.3527697e-18
C299 gate7  vdd    2.3527697e-18
C300 aux1   vdd    7.0583092e-18
C301 aux2   vdd    9.4110789e-18
C302 aux3   vdd    7.0583092e-18
C303 aux4   vdd    7.0583092e-18
C304 aux5   vdd    7.0583092e-18
C305 aux6   vdd    7.0583092e-18
C306 aux7   vdd    8.7873873e-18
C307 aux8   vdd    8.7873873e-18
C308 aux9   vdd    8.7873873e-18
C309 aux10  vdd    1.8769555e-18
C310 aux11  vdd    1.8769555e-18
C311 gate5  cont9  2.3527697e-18
C312 cont10 cont9  2.9291291e-18
C313 gate6  cont9  2.3527697e-18
C314 gate7  cont9  2.3527697e-18
C315 aux1   cont9  7.0583092e-18
C316 aux2   cont9  9.4110789e-18
C317 aux3   cont9  7.0583092e-18
C318 aux4   cont9  7.0583092e-18
C319 aux5   cont9  7.0583092e-18
C320 aux6   cont9  7.0583092e-18
C321 aux7   cont9  8.7873873e-18
C322 aux8   cont9  8.7873873e-18
C323 aux9   cont9  8.7873873e-18
C324 aux10  cont9  1.8769555e-18
C325 aux11  cont9  1.8769555e-18
C326 cont10 gate5  2.6767967e-18
C327 gate5  cont11 2.3527697e-18
C328 aux7   gate5  8.0303901e-18
C329 aux8   gate5  8.0303901e-18
C330 aux9   gate5  8.0303901e-18
C331 aux10  gate5  7.1050667e-18
C332 aux11  gate5  7.1050667e-18
C333 gate5  aux12  7.0583092e-18
C334 gate5  aux13  7.0583092e-18
C335 cont10 gate6  2.6767967e-18
C336 cont10 cont11 2.9291291e-18
C337 cont10 gate7  2.6767967e-18
C338 cont10 aux1   8.0303901e-18
C339 cont10 aux2   1.0707187e-17
C340 cont10 aux3   8.0303901e-18
C341 cont10 aux4   8.0303901e-18
C342 cont10 aux5   8.0303901e-18
C343 cont10 aux6   8.0303901e-18
C344 cont10 aux10  8.6830017e-18
C345 cont10 aux11  8.6830017e-18
C346 cont10 aux12  8.7873873e-18
C347 cont10 aux13  8.7873873e-18
C348 gate6  cont11 2.3527697e-18
C349 aux7   gate6  8.0303901e-18
C350 aux8   gate6  8.0303901e-18
C351 aux9   gate6  8.0303901e-18
C352 aux10  gate6  7.1050667e-18
C353 aux11  gate6  7.1050667e-18
C354 gate6  aux12  7.0583092e-18
C355 gate6  aux13  7.0583092e-18
C356 gate7  cont11 2.3527697e-18
C357 aux1   cont11 7.0583092e-18
C358 aux2   cont11 9.4110789e-18
C359 aux3   cont11 7.0583092e-18
C360 aux4   cont11 7.0583092e-18
C361 aux5   cont11 7.0583092e-18
C362 aux6   cont11 7.0583092e-18
C363 aux7   cont11 8.7873873e-18
C364 aux8   cont11 8.7873873e-18
C365 aux9   cont11 8.7873873e-18
C366 aux10  cont11 1.8769555e-18
C367 aux11  cont11 1.8769555e-18
C368 aux7   gate7  8.0303901e-18
C369 aux8   gate7  8.0303901e-18
C370 aux9   gate7  8.0303901e-18
C371 aux10  gate7  7.1050667e-18
C372 aux11  gate7  7.1050667e-18
C373 gate7  aux12  7.0583092e-18
C374 gate7  aux13  7.0583092e-18
C375 aux7   aux1   2.409117e-17
C376 aux8   aux1   2.409117e-17
C377 aux9   aux1   2.409117e-17
C378 aux10  aux1   2.13152e-17
C379 aux11  aux1   2.13152e-17
C380 aux1   aux12  2.1174928e-17
C381 aux1   aux13  2.1174928e-17
C382 aux7   aux2   3.212156e-17
C383 aux8   aux2   3.212156e-17
C384 aux9   aux2   3.212156e-17
C385 aux10  aux2   2.8420267e-17
C386 aux11  aux2   2.8420267e-17
C387 aux2   aux12  2.8233237e-17
C388 aux2   aux13  2.8233237e-17
C389 aux7   aux3   2.409117e-17
C390 aux8   aux3   2.409117e-17
C391 aux9   aux3   2.409117e-17
C392 aux10  aux3   2.13152e-17
C393 aux11  aux3   2.13152e-17
C394 aux3   aux12  2.1174928e-17
C395 aux3   aux13  2.1174928e-17
C396 aux7   aux4   2.409117e-17
C397 aux8   aux4   2.409117e-17
C398 aux9   aux4   2.409117e-17
C399 aux10  aux4   2.13152e-17
C400 aux11  aux4   2.13152e-17
C401 aux4   aux12  2.1174928e-17
C402 aux4   aux13  2.1174928e-17
C403 aux7   aux5   2.409117e-17
C404 aux8   aux5   2.409117e-17
C405 aux9   aux5   2.409117e-17
C406 aux10  aux5   2.13152e-17
C407 aux11  aux5   2.13152e-17
C408 aux5   aux12  2.1174928e-17
C409 aux5   aux13  2.1174928e-17
C410 aux7   aux6   2.409117e-17
C411 aux8   aux6   2.409117e-17
C412 aux9   aux6   2.409117e-17
C413 aux10  aux6   2.13152e-17
C414 aux11  aux6   2.13152e-17
C415 aux6   aux12  2.1174928e-17
C416 aux6   aux13  2.1174928e-17
C417 aux7   aux10  2.6049005e-17
C418 aux7   aux11  2.6049005e-17
C419 aux7   aux12  2.6362162e-17
C420 aux7   aux13  2.6362162e-17
C421 aux8   aux10  2.6049005e-17
C422 aux8   aux11  2.6049005e-17
C423 aux8   aux12  2.6362162e-17
C424 aux8   aux13  2.6362162e-17
C425 aux9   aux10  2.6049005e-17
C426 aux9   aux11  2.6049005e-17
C427 aux9   aux12  2.6362162e-17
C428 aux9   aux13  2.6362162e-17
C429 aux10  aux12  5.6308664e-18
C430 aux10  aux13  5.6308664e-18
C431 aux11  aux12  5.6308664e-18
C432 aux11  aux13  5.6308664e-18
